US07179804B2
[1-(3,5-Bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-(3-phenyl-3H-[1,2,3]triazol-4-yl)-methanone
To a solution of [1-(3,5-Bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-(3-phenyl-5-trimethylsilanyl-3H-[1,2,3]triazol-4-yl)-methanone (0.050 g, 0.08 mmol) in THF (2 mL) add t-butyl ammonium flouride (1 M soln. in THF, 1.2 mL, 1.2 mmol) and acetic acid (120 μL, 2.0 mmol) and heat at 65° C. After 72 h., remove from heat, and quench with sat. aq. NH4C1 and H2O. Extract with EtOAc, dry over MgSO4, filter, and purify by flash chromatography (EtOAc/Hexane 0%–50%) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 8.88 (s, 1H), 7.75 (s, 1H), 7.57–7.29 (m, 10H), 7.09 (m, 2H), 5.50 (s, 2H).

reactant | [1-(3,5-Bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-(3-phenyl-5-trimethylsilanyl-3H-[1,2,3]triazol-4-yl)-methanone | 0.08 mmol, 0.050 g | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C(=O)C=2N(N=NC2[Si](C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C29H24F6N6OSi
reactant | t-butyl ammonium flouride | 1.2 mmol, 1 M, 1.2 mL | [F-].C(C)(C)(C)[NH3+]
reactant | acetic acid | 2.0 mmol, 120 μL | C(C)(=O)O | C2H4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [1-(3,5-Bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-(3-phenyl-3H-[1,2,3]triazol-4-yl)-methanone | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C(=O)C=2N(N=NC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C26H16F6N6O
